US04288385
Preparation of 3-[(1-Ethylpropyl)amino]-N,N,6-trimethyl-2,4-dinitrostyrylamine
A mixture of N-(1-ethylpropyl)-2,6-dinitro-3,4-xylidine (50.0 g; 0.18 mol) and dimethylformamide dimethyl acetal (125 ml) is stirred at 85° C. overnight. The temperature of the reaction mixture is then raised to 90°-100° C. and methanol distilled off until approximately 12.5 ml methanol is collected. The reaction mixture is then cooled down, poured into hexane (400 ml) and chilled. The crystallized red solid (45.6 g; 75.3%) is collected and air dried. A sample is purified for analysis, melting point 100°-102° C.

reactant | N-(1-ethylpropyl)-2,6-dinitro-3,4-xylidine | 0.18 mol, 50.0 g | C(C)C(CC)NC1=C(C(=C(C=C1[N+](=O)[O-])C)C)[N+](=O)[O-] | C13H19N3O4
reactant | dimethylformamide dimethyl acetal | 125 ml | COC(N(C)C)OC | C5H13NO2
product | 3-[(1-Ethylpropyl)amino]-N,N,6-trimethyl-2,4-dinitrostyrylamine | C(C)C(CC)NC=1C(=C(C=CN(C)C)C(=CC1[N+](=O)[O-])C)[N+](=O)[O-] | C16H24N4O4
